US09056874B2
2-((7-(Hydroxymethyl)-5-methyl-1-tosyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile
To a solution of a mixture of 2-((7-(hydroxymethyl)-5-methyl-1-tosyl-1H-indol-4-yl)methyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile and 2-((7-(hydroxymethyl)-5-methyl-1-tosyl-1H-indol-4-yl)methyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-6-carbonitrile (14 mg, 0.023 mmol) in DCM (0.23 mL), BF3.OEt2 (15 μL, 0.117 mmol) was added at 0° C. After stirring for 5 minutes, the mixture was warmed up to room temperature. After 30 minutes the reaction mixture was diluted with sat. aq. NaHCO3 and EtOAc, extracted with EtOAc, and the organic extract was dried over MgSO4, filtered and concentrated to provide the title compound, which was used without further purification. MS (ESI+) m/z 471.2 (M+H).

reactant | 2-((7-(hydroxymethyl)-5-methyl-1-tosyl-1H-indol-4-yl)methyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile | OCC=1C=C(C(=C2C=CN(C12)S(=O)(=O)C1=CC=C(C)C=C1)CC1=NC2=C(N1COCC[Si](C)(C)C)C=CC(=C2)C#N)C | C32H36N4O4SSi
reactant | 2-((7-(hydroxymethyl)-5-methyl-1-tosyl-1H-indol-4-yl)methyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-6-carbonitrile | 0.023 mmol, 14 mg | OCC=1C=C(C(=C2C=CN(C12)S(=O)(=O)C1=CC=C(C)C=C1)CC1=NC2=C(N1COCC[Si](C)(C)C)C=C(C=C2)C#N)C | C32H36N4O4SSi
reactant | BF3.OEt2 | 0.117 mmol, 15 μL | B(F)(F)F.CCOCC
solvent | DCM | 0.23 mL | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-((7-(Hydroxymethyl)-5-methyl-1-tosyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile | OCC=1C=C(C(=C2C=CN(C12)S(=O)(=O)C1=CC=C(C)C=C1)CC1=NC2=C(N1)C=CC(=C2)C#N)C | C26H22N4O3S
